US06329370B1
1-(3,5-Dichloro-pyridin-4-ylmethyl)-6-difluoromethoxy-4-[1,2,4]triazol-1-yl-phthalazine (Compound 54)
A solution under N2 of 1,2,4-triazole (2.4 g, 34.8 mmoles) in DMF (100 ml) was added with NaH (1.05 g, 26.1 mmoles). The mixture was stirred at room temperature up to clarity, then added with 4-chloro-1-(3,5-dichloro-pyridin-4-ylmethyl)-6-difluoromethoxy-phthalazine (6.8 g, 17.4 mmoles), prepared as described in example 99. The mixture was heated at 100° C. for 5 hours, extracted three times with CH2Cl2. The organic phase was anhydrified and dried to give a solid which was flash chromatographed (eluent: ethyl acetate/petrolatum 7:3 to 100% of ethyl acetate) to give 4.14 g of the title compound (yield: 28%). m.p.: 220-224° C.

reactant | 1,2,4-triazole | 34.8 mmoles, 2.4 g | N1N=CN=C1 | C2H3N3
reactant | NaH | 26.1 mmoles, 1.05 g | [H-].[Na+]
reactant | 4-chloro-1-(3,5-dichloro-pyridin-4-ylmethyl)-6-difluoromethoxy-phthalazine | 17.4 mmoles, 6.8 g | ClC1=NN=C(C2=CC=C(C=C12)OC(F)F)CC1=C(C=NC=C1Cl)Cl | C15H8Cl3F2N3O
solvent | DMF | 100 ml | CN(C)C=O | C3H7NO
product | 1-(3,5-Dichloro-pyridin-4-ylmethyl)-6-difluoromethoxy-4-[1,2,4]triazol-1-yl-phthalazine | 4.14 g, yield: 28% | ClC=1C=NC=C(C1CC1=NN=C(C2=CC(=CC=C12)OC(F)F)N1N=CN=C1)Cl | C17H10Cl2F2N6O
